US08748469B2
Methyl 4-(1H-imidazol-4-yl)benzoate
To a stirred solution of 4-(1H-imidazol-4-yl)benzoic acid hydrochloride (20 mg, 0.089 mmol) at 0° C. in MeOH (5 mL) was added thionyl chloride (11.6 mg, 0.097 mmol) and the solution was allowed to warm to rt. After stirring overnight the solution was concentrated under reduced pressure to dryness and the crude residue was partitioned between EtOAc (25 mL) and sat'd NaHCO3 (5 mL). The organic layer was collected, dried (Na2SO4) and concentrated under reduced pressure to afford the desired product as a pale yellow solid (15 mg, 86% yield). 1H NMR: 3.92 (s, 3H), 7.41 (s, 1H), 7.67-7.77 (m, 3H), 8.03 (s, 2H).

reactant | 4-(1H-imidazol-4-yl)benzoic acid hydrochloride | 0.089 mmol, 20 mg | Cl.N1C=NC(=C1)C1=CC=C(C(=O)O)C=C1
reactant | thionyl chloride | 0.097 mmol, 11.6 mg | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 5 mL | CO | CH4O
product | Methyl 4-(1H-imidazol-4-yl)benzoate | 15 mg, 86% yield | N1C=NC(=C1)C1=CC=C(C(=O)OC)C=C1 | C11H10N2O2
